US06884821B1
501 mg of ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-hydroxyphenyl)-2-isopropoxypropionate was dissolved in 7 ml pyridine, and 270 μL trifluoromethane sulfonic anhydride was added under ice-cooling. After stirring at room temperature for 1 hour, 100 μL trifluoromethane sulfonic anhydride was further added. The mixture was further stirred for 2 hours, then the reaction mixture was diluted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, water and brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated, to give 663 mg of ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-[(trifluoromethyl)sulfonyl]oxyphenyl)-2-isopropoxypropionate.

reactant | ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-hydroxyphenyl)-2-isopropoxypropionate | 501 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1O)CC(C(=O)OCC)OC(C)C | C20H31NO6
reactant | trifluoromethane sulfonic anhydride | 270 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | trifluoromethane sulfonic anhydride | 100 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-[(trifluoromethyl)sulfonyl]oxyphenyl)-2-isopropoxypropionate | 663 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)CC(C(=O)OCC)OC(C)C | C21H30F3NO8S
